US04254024
Synthesis of H-Tyr-DAla-Phe-Leu-NH2
Boc-leucine was esterified to chloromethyl polystyrene-1% divinylbenzene in the standard way (cf. Stewart and Young) to give a product containing 0.347 mmoles leucine per gram resin. The peptide sequence was assembled on the resin in the standard way described for Example 1 above, using the Beckman 990 synthesizer. H-Tyr(BrZ)-DAla-Phe-Leu-resin was suspended in anhydrous methanol in a pressure vessel. The solution was chilled to -20°, saturated with ammonia gas, and the vessel was closed and stirred at room temperature for 2 days. Excess ammonia was removed under reduced pressure, the resin was filtered off and discarded, and the peptide solution evaporated to dryness. The blocking group was removed from the tyrosine by treatment with HF-anisole as described in Example 1 above. The peptide was purified by CCD in nBAW (4:1:5); the partition coefficient was 3.0. On paper electrophoresis at pH 5.0 the peptide had Elys =0.50.

reactant | Boc-leucine | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | leucine | 0.347 mmoles | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | H-Tyr(BrZ)-DAla-Phe-Leu | N[C@@H](CC1=CC=C(C=C1)OC(=O)OCC1=C(Br)C=CC=C1)C(=O)N[C@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O | C35H41BrN4O8
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | H-Tyr-DAla-Phe-Leu-NH2 | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N | C27H37N5O5
